US04412999
To a mixture of 1.0 g (0.00302 mole) of (±)-5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid, 0.31 g (0.0030 mole) of triethylamine and 4 ml of hexamethylphosphoramide was added 0.456 g (0.0030 mol) of 1H-1-chloromethyl-3-methyl-2,5-dioxo-2,3,4,5-tetrahydroimidazole. The mixture was stirred and heated in an oil bath at 100° C. for 18 hours. After cooling, 25 ml of water and 25 ml of a saturated solution of sodium carbonate were added to the reaction. The mixture then was extracted with ten 50 ml aliquots of ether. The combined ether extracts were washed with ten 75 ml portions of water, dried over magnesium sulfate, filtered, and the solvent was removed on a rotary evaporator. The white crystalline residue was recrystallized from acetonitrile to afford (±)-(3-methyl-2,5-dioxo-1-imidazolidinyl)methyl 5-(1-methyl-4-piperidinylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate, m.p. 192°-194°.

reactant | (±)-5-(1-methyl-4-piperidylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylic acid | 0.00302 mole, 1.0 g | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)O)C=CC=C2 | C22H21NO2
reactant | triethylamine | 0.0030 mole, 0.31 g | C(C)N(CC)CC | C6H15N
reactant | hexamethylphosphoramide | 4 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 25 ml | O | H2O
product | (±)-(3-methyl-2,5-dioxo-1-imidazolidinyl)methyl 5-(1-methyl-4-piperidinylidene)-5H-dibenzo[a,d]cycloheptene-3-carboxylate | CN1CCC(CC1)=C1C2=C(C=CC3=C1C=C(C=C3)C(=O)OCN3C(N(CC3=O)C)=O)C=CC=C2 | C27H27N3O4
